US08426447B2
A sealable tube was charged with (S)-7-bromo-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (75 mg, 0.178 mmol), copper(i) iodide (3.38 mg, 0.018 mmol), tetrakis(triphenylphosphine)palladium (20.53 mg, 0.018 mmol). Added DMF (355 μL, 0.178 mmol), diisopropylamine (498 μL, 3.55 mmol) and cyclopropylacetylene (75 μL, 0.888 mmol) and the tube was flushed with argon, sealed and heated to 110° C. for 2 hours. More copper iodide (3.38 mg, 0.018 mmol), tetrakis(triphenylphosphine)palladium (20.53 mg, 0.018 mmol), diisopropylamine (498 μL, 3.55 mmol) and cyclopropylacetylene (75 μL, 0.888 mmol) were added and the black mixture was heated at 110° C. for 3 hours. The reaction was diluted with water (100 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (12 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-7-(cyclopropylethynyl)-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a tan solid.

reactant | (S)-7-bromo-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.178 mmol, 75 mg | BrC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)F | C18H17BrFN3O3
reactant | DMF | 0.178 mmol, 355 μL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 3.55 mmol, 498 μL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopropylacetylene | 0.888 mmol, 75 μL | C1(CC1)C#C | C5H6
reactant | diisopropylamine | 3.55 mmol, 498 μL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopropylacetylene | 0.888 mmol, 75 μL | C1(CC1)C#C | C5H6
solvent | water | 100 mL | O | H2O
catalyst | copper(i) iodide | 0.018 mmol, 3.38 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 20.53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.018 mmol, 3.38 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 20.53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-7-(cyclopropylethynyl)-3-(2-fluoro-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | C1(CC1)C#CC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)F | C23H22FN3O3
